* Z:\mnt\design.r\spice\examples\4090.asc
C1 OUT 0 4.7µ
M2 N010 N008 OUT OUT FDS4685
Cbat N010 0 2.5
R3 N012 N013 10K
V2 IN 0 PWL(1m 0 +1u 5)
C4 N009 0 0.1µ
R4 N013 0 10K
R5 0 N015 66.5K
R6 N011 0 2K
R7 OUT 0 100
R8 IN N006 10K
R2 N005 OUT 1K
L1 N002 N003 6.8µ
C2 N003 0 22µ
M1 N003 N005 OUT OUT FDS4685
R9 N016 0 40.2K
C3 N007 0 270p
V4 N001 0 PWL(7 0 +10u 12)
R1 N004 N001 499K
C5 N004 0 200p
R10 OUT N014 1K
D1 N014 N017 LXHL-BW02
XU1 MP_01 NC_02 N016 N007 N013 N012 N005 N017 N015 N008 N010 IN OUT N011 N006 NC_03 N009 N003 MP_04 N002 N001 N004 0 LTC4090
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 11
* NTC
* USB or Wall Power
.lib LTC4090.sub
.backanno
.end
